US03969366
b. 10-Chloro-7-methyl-3-(4-methyl-1-piperazinylmethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one
5 g. of 10-chloro-3-(chloromethyl)-7-methyl-5H-s-triazolo-[4,3-d][1,4]benzodiazepin-6(7H)-one from part (a) is suspended in 50 ml. of 1,2-dimethoxyethane. N-methylpiperazine (5.4 g.) is added to the suspension and the mixture is heated under reflux for 5 hours. The solvent is stripped off, 3N aqueous sodium hydroxide is added to the residue and the mixture is extracted with several portions of chloroform. The combined chloroform extracts are dried over sodium sulfate and the solvent is removed under vacuum to leave a residue which is recrystallized from absolute ethanol to yield 4 g. of the title compound, melting point 228.5°-230.5°.

reactant | 10-chloro-3-(chloromethyl)-7-methyl-5H-s-triazolo-[4,3-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C(=NN3)CCl)C1 | C12H10Cl2N4O
reactant | N-methylpiperazine | 5.4 g | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 10-Chloro-7-methyl-3-(4-methyl-1-piperazinylmethyl)-5H-s-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C=3N(CC(N2C)=O)C(=NN3)CN3CCN(CC3)C)C1 | C17H21ClN6O
